US20010018423A1
D) Preparation of EtSO2-D-Cha-Pro-OH
To a solution of EtSO2-D-Phe-Pro-OH (10 g, 28 mmol) in ethanol (300 mL) was added PtO2 (5 g). The mixture was hydrogenated using a high pressure apparatus at 4.1 bar and 20° C. for 20 h. The solution was then filtered through diatomaceous earth, and concentrated to give 8.1 g (80%) of thick oil.

reactant | EtSO2-D-Phe-Pro-OH | 28 mmol, 10 g | C(C)S(=O)(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C16H22N2O5S
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | PtO2 | 5 g | O=[Pt]=O
product | EtSO2-D-Cha-Pro-OH | 8.1 g, 80% | C(C)S(=O)(=O)N[C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)O)CCC1 | C16H28N2O5S
